US05051422
4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-(3-chlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine (13.3 g, 41 mmol) with 2,3-dibromopropanamide (19.1 g, 166 mmol) to obtainthe title compound.

reactant | N-(3-chlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | 41 mmol, 13.3 g | ClC=1C=C(C=CC1)NCCNCC1=CC(=C(C=C1)OC)OC | C17H21ClN2O2
reactant | 2,3-dibromopropanamide | 166 mmol, 19.1 g | BrC(C(=O)N)CBr | C3H5Br2NO
product | 4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide | ClC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)C(=O)N | C20H24ClN3O3
